### PR TITLE
[ #643 ] Add rewriting theory concepts to standard library

### PR DESCRIPTION
**Pull request by zgrannan**
Started work for #643, however I placed it in it's own module `Relation.Binary.Rewriting` in order to use `Star` for the reflexive transitive closure (otherwise, there will be cyclic dependencies).

My plan is to add a couple other consequences and properties based on *Term Rewriting Syntax* by J.W. Klop.

### CODE REVIEW

**Comment by MatthewDaggitt** [comment]
Thanks for this, it looks great so far. I'm going to add a few comments to the code, hope you don't mind.

File: src/Relation/Binary/Rewriting.agda [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+open import Data.Sum as Sum using (_⊎_)
+open import Level
+open import Relation.Binary.Core
+open import Relation.Binary.Construct.Closure.Transitive
+open import Relation.Binary.Construct.Closure.ReflexiveTransitive
+open import Relation.Binary.Construct.Closure.Symmetric
+open import Relation.Nullary
+
+-- The following definitions are taken from Klop [5]
+IsNormalForm : ∀ {A : Set} → {ℓ : Level} → {r : Rel A ℓ} → (a : A) → Set _
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: Is there a reason why A is not universe polymorphic? If made universe polymorphic then following standard library conventions this this type would be written as `∀ {a ℓ} {A : Set a} →Rel A ℓ → A → Set _`.

(These apply to many of the definitions below as well)

Comment (MatthewDaggitt) [reply src/Relation/Binary/Rewriting.agda]: Note that I have made the `Rel` argument explicit as it can't be inferred from the `A` parameter. Indeed you seem to need to provide it explicitly everywhere below.

File: src/Relation/Binary/Rewriting.agda [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+  → a ↔ b
+  → a ≡ b
+  where
+    _↔_ = Star (SymClosure r)
+
+Det : ∀ {a b ℓ₁ ℓ₂} → {A : Set a} → {B : Set b} → Rel B ℓ₁ → REL A B ℓ₂ → Set _
+Det _≈_ _—→_ = ∀ {x y z} → x —→ y → x —→ z → y ≈ z
+
+Deterministic : ∀ {a b ℓ} → {A : Set a} → {B : Set b} → REL A B ℓ → Set _
+Deterministic = Det _≡_
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: I'm not sure this shorthand follows conventions elsewhere in the standard library. I think it's clearer to rename `Det` to `Deterministic` and just write  `Deterministic _≡_ _—→_` out in full.

File: src/Relation/Binary/Rewriting.agda [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+  where
+     _—↠_ = Star _—→_
+
+Diamond : ∀ {A : Set} → {ℓ : Level} → (r :  Rel A ℓ) → Set _
+Diamond _—→_ = ∀ {A B C} → (A —→ B × A —→ C) → ∃ λ D → (B —↠ D) × (C —↠ D)
+  where
+    _—↠_ = Star _—→_
+
+det⟶conf : ∀ {A : Set}
+  → {ℓ : Level}
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: By convention we put the arrows at the end of the line rather than the beginning of the next. I've just updated the [style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md) with a note.

If you use the style mentioned above (`∀ {a ℓ} {A : Set a} → ... etc.) this should all fit on one line anyway.

Also by convention we capitalise the relations (i.e. `R : Rel A ℓ`) but in actual fact in this case it would be better if you used the same symbol as used in the definition of the type (i.e. `_—→_ : Rel A ℓ`)

File: src/Relation/Binary/Rewriting.agda [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+  → Diamond r
+conf⟶diamond c (fst , snd) = c (fst ◅ ε , snd ◅ ε)
+
+conf⟶nf : ∀ {A : Set} → {ℓ : Level} → {r : Rel A ℓ}
+  → Confluent r
+  → NormalForm r
+conf⟶nf c aIsNF ε = ε
+conf⟶nf c aIsNF (fwd x ◅ r) = x ◅ conf⟶nf c aIsNF r
+conf⟶nf c aIsNF (bwd y ◅ rest) with c (y ◅ ε , (conf⟶nf c aIsNF rest))
+conf⟶nf c aIsNF (bwd y ◅ rest) | dest , _    , x ◅ _ = ⊥-elim (aIsNF (_ , x))
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: You can replace the front of this line with `... |` to make it more readable.

**Comment by zgrannan** [comment]
@MatthewDaggitt Thanks for the comments! I think I've addressed all of them. I've included all the rewriting concepts I want to add for now (there are some more that are interesting that I'm considering adding later).

Do you have any other feedback on this PR?

File: src/Relation/Binary/Rewriting.agda [hunk 5]
```diff
@@ -0,0 +1,165 @@
...
+det⟶conf f (a ◅ fst , b ◅ snd) rewrite f a b = det⟶conf f ( fst , snd )
+
+conf⟶wcr : ∀ {a ℓ} → {A : Set a} → {_⟶_ : Rel A ℓ} → Confluent _⟶_ → WeaklyConfluent _⟶_
+conf⟶wcr c (fst , snd) = c (fst ◅ ε , snd ◅ ε)
+
+conf⟶nf : ∀ {a ℓ} → {A : Set a} → {_⟶_ : Rel A ℓ} → Confluent _⟶_ → NormalForm _⟶_
+conf⟶nf c aIsNF ε = ε
+conf⟶nf c aIsNF (fwd x ◅ rest) = x ◅ conf⟶nf c aIsNF rest
+conf⟶nf c aIsNF (bwd y ◅ rest) with c (y ◅ ε , (conf⟶nf c aIsNF rest))
+conf⟶nf _ aIsNF _ | _ , _    , x ◅ _ = ⊥-elim (aIsNF (_ , x))
```
Comment (gallais) [inline src/Relation/Binary/Rewriting.agda]: You can use `... |` for this line too

File: src/Relation/Binary/Rewriting.agda [hunk 6]
```diff
@@ -0,0 +1,165 @@
...
+...               | _ , left , ε     = left
+
+conf⟶unf : ∀ {a ℓ} {A : Set a} → {_⟶_ : Rel A ℓ} → Confluent _⟶_ → UniqueNormalForm _⟶_
+conf⟶unf _ _     _     ε           = refl
+conf⟶unf _ aIsNF _     (fwd x ◅ _) = ⊥-elim (aIsNF (_ , x))
+conf⟶unf c _     bIsNF (bwd y ◅ r) with c (y ◅ ε , (conf⟶nf c bIsNF r))
+conf⟶unf _ _     bIsNF _ | _ , ε     , x ◅ _ = ⊥-elim (bIsNF (_ , x))
+conf⟶unf _ aIsNF _     _ | _ , x ◅ _ , _     = ⊥-elim (aIsNF (_ , x))
+...                      | _ , ε     , ε     = refl
```
Comment (gallais) [inline src/Relation/Binary/Rewriting.agda]: Same for all of these.

**Comment by gallais** [comment]
Note that for

```agda
IsNormalForm : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → A → Set _
HasNormalForm : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → A → Set _
NormalForm : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
WeaklyNormalizing : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
StronglyNormalizing : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
UniqueNormalForm : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
Confluent : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
WeaklyConfluent : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
```

we could instead write:

```agda
module _ {a ℓ} {A : Set a} (_⟶_ : Rel A ℓ) where

  private
    _⟵_  = flip _⟶_
    _—↠_ = Star _⟶_
    _↔_  = Star (SymClosure _⟶_)

  [definitions here]
```

to avoid the local `where` clauses.

**Comment by gallais** [comment]
Another remark: we can make the file compatible with `--without-K` by slightly
changing one of the proof so that the termination checker stops complaining:

```agda

module _ {a ℓ} {A : Set a} {_⟶_ : Rel A ℓ} where

  private
    _—↠_ = Star _⟶_

  det⟶conf : Deterministic _≡_ _⟶_ → Confluent _⟶_
  det⟶conf det (l , r) = helper l r refl where

    helper : ∀ {t₁ t₂ l r} → t₁ —↠ l → t₂ —↠ r → t₁ ≡ t₂ →
             ∃ λ m → l —↠ m × r —↠ m
    helper ε          rs₂        refl = -, rs₂ , ε
    helper rs₁        ε          refl = -, ε , rs₁
    helper (r₁ ◅ rs₁) (r₂ ◅ rs₂) refl = helper rs₁ rs₂ (det r₁ r₂)
```

**Comment by gallais** [comment]
Alternatively, if we curry the definition of `Confluent`, we can keep the original proof and be compatible with `--without-K`:

```agda
Confluent : ∀ {a ℓ} → {A : Set a} → Rel A ℓ → Set _
Confluent _⟶_ = ∀ {A B C} → A —↠ B → A —↠ C → ∃ λ D → (B —↠ D) × (C —↠ D)
  where
     _—↠_ = Star _⟶_

det⟶conf : ∀ {a ℓ} {A : Set a} {_⟶_ : Rel A ℓ} →
           Deterministic _≡_ _⟶_ → Confluent _⟶_
det⟶conf det ε          rs₂        = -, rs₂ , ε
det⟶conf det rs₁        ε          = -, ε , rs₁
det⟶conf det (r₁ ◅ rs₁) (r₂ ◅ rs₂)
  rewrite det r₁ r₂ = det⟶conf det rs₁ rs₂
```

**Comment by gallais** [comment]
Ok, I got sucked in, did the cleanup and pushed it.

I feel like:

```agda
forwards : ∀ {a b} → a —↠ b → a ↔ b
backwards : ∀ {a b} → a —↠ b → b ↔ a
lemma : ∀ {a b c} → a —↠ b → a —↠ c → b ↔ c
```

should be proper toplevel lemmas somewhere. Should we add
`Relation.Binary.Construct.Closure.ReflexiveSymmetricTransitive.Properties`
for properties of `Star (SymClosure _⟶_)`?

**Comment by zgrannan** [comment]
@gallais Thanks for the feedback and making those changes!

File: src/Relation/Binary/Rewriting.agda [hunk 7]
```diff
@@ -0,0 +1,153 @@
...
+open import Relation.Binary.Construct.Closure.Transitive
+open import Relation.Nullary
+
+-- The following definitions are taken from Klop [5]
+module _ {a ℓ} {A : Set a} (_⟶_ : Rel A ℓ) where
+
+  private
+    _⟵_  = flip _⟶_
+    _—↠_ = Star _⟶_
+    _↔_  = Star (SymClosure _⟶_)
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: Is this not just `EqClosure` from `Relation.Binary.Construct.Closure.Equivalence`?

File: src/Relation/Binary/Rewriting.agda [hunk 8]
```diff
@@ -0,0 +1,153 @@
...
+Deterministic _≈_ _—→_ = ∀ {x y z} → x —→ y → x —→ z → y ≈ z
+
+module _ {a ℓ} {A : Set a} {_⟶_ : Rel A ℓ} where
+
+  private
+    _—↠_ = Star _⟶_
+    _↔_  = Star (SymClosure _⟶_)
+    _⟶₊_ = Plus _⟶_
+
+  det⟶conf : Deterministic _≡_ _⟶_ → Confluent _⟶_
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Rewriting.agda]: Could we use the `⇒` arrow in these proof names rather than `⟶`? As:

1. Implication is much more commonly represented using `⇒` in the rest of the library (I know there's some hold outs in `Relation.Binary.Consequences` but they'll go at some point).

2. In this particular file it's actually actively confusing as we're already using a relation `⟶` that is definitely not implication.

**Comment by MatthewDaggitt** [comment]
Thanks both this looks great. I've added a couple more comments above apologies. After that I'm happy and I'll merge it in!

> Should we add `Relation.Binary.Construct.Closure.ReflexiveSymmetricTransitive.Properties`
for properties of `Star (SymClosure _⟶_)`?

As pointed out in my comments we already have `Star SymClosure` in `Relation.Binary.Construct.Closure.Equivalence` so these proofs should live in `Relation.Binary.Construct.Closure.Equivalence.Properties`.

**Comment by jespercockx** [comment]
> `Relation.Binary.Construct.Closure.Equivalence.Properties`

I believe the naming scheme is getting a bit out of hand here. I'm never going to remember 6 levels of nested modules, and it makes it almost impossible to discover modules for new users. I think it would be better to adhere to a maximum of 3 levels (or perhaps 4 for modules defining stuff that is re-exported elsewhere). Anyway, just my 2 cents.

**Comment by MatthewDaggitt** [comment]
> I believe the naming scheme is getting a bit out of hand here. I'm never going to remember 6 levels of nested modules, and it makes it almost impossible to discover modules for new users. I think it would be better to adhere to a maximum of 3 levels (or perhaps 4 for modules defining stuff that is re-exported elsewhere). For example, this module could be named Relation.EqClosure (perhaps with another module Relation.EqClosure.Properties if it gets too big). Anyway, just my 2 cents.

Interesting. Unfortunately it's a bit late now, given that we're promising stability with v1.0 which is releasing with 2.6.0. I think there's pro and cons for both flatter and deeper hierarchies.  

Whilst I agree that its easier to discover modules scrolling through an enormous directory, the `Everything.agda` file already provides this feature. It does need to be better sign-posted though, I agree. Now that we're stable there's going to be a drive to improve the documentation for the library in v1.1 that should improve the situation somewhat.

On the cons side of a flattened structure, the `Properties` files aren't added simply to extend the hierarchy but are actively needed to avoid dependency cycles. So under your rule of max 3 levels we've only got 2 levels left to classify a non-trivial proportion of mathematics.

Furthermore flattening the hierarchies will result in truly enormous folders. For example flattening the `Relation` folder as you suggest would result in a folder with over 100 files in it. Any logical or consistent grouping of such files is going to be lost via the alphabetical sorting of such files. This makes it much harder to find related files (e.g. from `SetoidReasoning` finding `MultiSetoidReasoning`).

File: src/Relation/Binary/Rewriting.agda (hunk 7 above)
Comment (zgrannan) [reply src/Relation/Binary/Rewriting.agda]: Didn't realize that existed, using that instead!

File: src/Relation/Binary/Rewriting.agda (hunk 8 above)
Comment (zgrannan) [reply src/Relation/Binary/Rewriting.agda]: That makes sense!

**Comment by jespercockx** [comment]
You are right that mathematical hierarchies are often deeper nested than software hierarchies, so perhaps it's unrealistic to hope for a more shallow hierarchy. But perhaps we could have some less deeply nested modules that just re-export some commonly used stuff from a collection of modules? This would at least solve my problem of not being able to remember the name of the modules I want to import.

One specific problem I had with the proposed name here is that I don't know what is the meaning of 'Construct': wouldn't `Relation.Binary.Closure.Equivalence` be sufficiently nested? I think having even one level less would already help with the discoverability.

**Comment by gallais** [comment]
@jespercockx I tend to Ctrl+F on https://agda.github.io/agda-stdlib/ when I can't
remember a module's name.

**Comment by MatthewDaggitt** [comment]
> But perhaps we could have some less deeply nested modules that just re-export some commonly used stuff from a collection of modules? This would at least solve my problem of not being able to remember the name of the modules I want to import.

Yup, various people have suggested this. We're slowly naturally moving towards such a design as in practice `Data.List`, `Data.Nat` etc. are emptying of contents. At some point we'll have a drive to work out how to organise such re-exporting. 

> One specific problem I had with the proposed name here is that I don't know what is the meaning of 'Construct': wouldn't Relation.Binary.Closure.Equivalence be sufficiently nested? I think having even one level less would already help with the discoverability.

Yes, maybe `Construct` was not strictly necessary. As I said we're planning to write more documentation explaining some of the non-obvious terminology. Although it doesn't help much with the initial understanding, it is worth pointing out that `Construct` is a standard folder for any set of modules containing a record hierarchy (e.g. `Algebra.Construct`, `Relation.Binary.Indexed.Heterogeneous.Construct`, and soon to be `Function.Metric.Construct`), and so users will come across it relatively often.

**Comment by gallais** [comment]
What about the relocation of the lemmas I mentioned in https://github.com/agda/agda-stdlib/pull/648#issuecomment-476850715

**Comment by MatthewDaggitt** [comment]
> What about the relocation of the lemmas I mentioned in #648 (comment)

Good point. Had forgotten about those. Yup they should be moved.

**Comment by zgrannan** [comment]
> > What about the relocation of the lemmas I mentioned in #648 (comment)
> 
> Good point. Had forgotten about those. Yup they should be moved.

Moved these in 077c720

**Comment by MatthewDaggitt** [comment]
Thanks to everyone for the work! @zgrannan as you've added a module, would you like to be added to the list of contributors and if so under what name?

**Comment by zgrannan** [comment]
@MatthewDaggitt thanks for doing the review! I would like to be added to the contributor list, my name is "Zack Grannan"
